US04847256
N-[3-(3-Cyanopyrazolo[1,5-a]pyrimidin-7-yl)phenyl]acetamide
A mixture of 6.0 g of 3-aminopyrazole-4-carbonitrile, 13.0 g of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide and 100 ml of glacial acetic acid was heated at reflux for 4 hours. On standing at room temperature a precipitate formed. The precipitate was isolated, washed with hexane, then ether and dried. The solid was recrystallized from acetonitrile-N,N-dimethylformamide and gave the product of the example, mp 252°-254° C.

reactant | 3-aminopyrazole-4-carbonitrile | 6.0 g | NC1=NNC=C1C#N | C4H4N4
reactant | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide | 13.0 g | CN(C=CC(=O)C=1C=C(C=CC1)NC(C)=O)C | C13H16N2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | N-[3-(3-Cyanopyrazolo[1,5-a]pyrimidin-7-yl)phenyl]acetamide | C(#N)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)NC(C)=O | C15H11N5O
